US05519034
Methyl iodide (110 g was added dropwise to a stirred solution of 4-chloro-3-methylphenol (100 g) and potassium carbonate (194 g) in acetone (500 ml). The mixture was stirred for 1.5 hours. Methyl iodide (142 g) was added and the mixture stirred for a further hour. Solvent was removed by evaporation and the residue partitioned between water and ethyl acetate. The organic layer yielded an oil which was heated under reflux for 2 hours with N-bromosuccinimide (119 g) and benzoyl peroxide (1 g) in carbon tetrachloride (250 ml). The mixture was cooled, filtered and the filtrate concentrated to give a residue which was distilled under high vacuum. The fractions collected between 88° and 94° C./0.4 mbar were recrystallised from petroleum ether (b.p. 60°-80° C.) to give 2-chloro-5-methoxy benzyl bromide, m.p. 51°-52° C.

reactant | Methyl iodide | CI | CH3I
reactant | 4-chloro-3-methylphenol | 100 g | ClC1=C(C=C(C=C1)O)C | C7H7ClO
reactant | potassium carbonate | 194 g | C([O-])([O-])=O.[K+].[K+]
reactant | Methyl iodide | 142 g | CI | CH3I
reactant | N-bromosuccinimide | 119 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | acetone | 500 ml | CC(=O)C | C3H6O
solvent | carbon tetrachloride | 250 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-chloro-5-methoxy benzyl bromide | ClC1=C(CBr)C=C(C=C1)OC | C8H8BrClO
